US04010193
2.86 g. of cyclohexylamino ethanol and 2.02 g. of triethyl amine are dissolved in 30 ml. of anhydrous ethyl acetate. A solution of 4.6 g. of 3,4,5-trimethoxybenzoyl-chloride and 20 ml. of anhydrous ethyl acetate are added under stirring and boiling. The reaction mixture is refluxed for 2 hours, whereafter it is cooled and the precipitate is filtered off by suction and washed with ethyl acetate. The ethyl acetate solution is saturated with gaseous hydrochloric acid. The mixture is refluxed for an hour. On cooling white crystals precipitate. Thus N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hyrochloride is obtained. M.p.: 209° - 210° C.

reactant | cyclohexylamino ethanol | C1(CCCCC1)NC(C)O | C8H17NO
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzoyl-chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate hyrochloride | CCN(C1CCCCC1)C1=C(C(=O)[O-])C=C(C(=C1OC)OC)OC.Cl | InChI=1S/C18H27NO5.ClH/c1-5-19(12-9-7-6-8-10-12)15-13(18(20)21)11-14(22-2)16(23-3)17(15)24-4;/h11-12H,5-10H2,1-4H3,(H,20,21);1H/p-1
